US05214037
To a suspension of 7β-amino-3-(1,2,3-triazol-4-yl) thiomethylthio- 3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride (110 mg: 0.2 mMol.) and (Z)-2-(2-t-butoxycarbonylaminothiazol -4-yl)-2-trityloxyiminoacetic acid (122 mg: 0.23 mMol.) in dichloromethane (3 ml) are added N-methylmorpholine (72 μl: 0.66 mMol.) and phenyl dichlorophosphate (33 μl : 0.22 mMol.) at -30° C. After stirring for 2 hours, the reaction mixture is diluted with 10% hydrochloric acid and extracted with ethyl acetate. The extract is washed with water dried, purified by silica gel chromatography, and crystallized from toluene to give 7β- [(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]- 3-(1,2,3-triazol-4-yl) thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester (110 mg). m.p. 190°-200° C. (decomp.).

reactant | 7β-amino-3-(1,2,3-triazol-4-yl) thiomethylthio- 3-cephem-4-carboxylic acid diphenylmethyl ester hydrochloride | 0.2 mMol, 110 mg | Cl.C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2N)=O)CSC=2N=NNC2
reactant | (Z)-2-(2-t-butoxycarbonylaminothiazol -4-yl)-2-trityloxyiminoacetic acid | 0.23 mMol, 122 mg | C(C)(C)(C)OC(=O)NC=1SC=C(N1)/C(/C(=O)O)=N/OC(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C29H27N3O5S
reactant | N-methylmorpholine | 0.66 mMol, 72 μl | CN1CCOCC1 | C5H11NO
reactant | phenyl dichlorophosphate | 0.22 mMol, 33 μl | P(=O)(OC1=CC=CC=C1)(Cl)Cl | C6H5Cl2O2P
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
solvent | hydrochloric acid | Cl | ClH
product | 7β- [(Z)-2-(2-t-butoxycarbonylaminothiazol-4-yl)-2-trityloxyiminoacetamido]- 3-(1,2,3-triazol-4-yl) thiomethylthio-3-cephem-4-carboxylic acid diphenylmethyl ester | 110 mg | C1(=CC=CC=C1)C(C1=CC=CC=C1)OC(=S)C1=C(CS[C@H]2N1C([C@H]2NC(\C(=N/OC(C2=CC=CC=C2)(C2=CC=CC=C2)C2=CC=CC=C2)\C=2N=C(SC2)NC(=O)OC(C)(C)C)=O)=O)CSC=2N=NNC2 | C52H46N8O6S4
